US05219871
Preparation of 2,2-diphenyl-5-[N-{2-(indan-5-yl)ethyl}-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.3 g-see Preparation 3), 5-(2-bromoethyl)indane (0.24 g-see Preparation 6), anhydrous potassium carbonate (0.5 g) and acetonitrile (10 ml) was heated under reflux for 16 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous sodium carbonate (30 ml), the layers separated and the aqueous layer extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.23 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.3 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 5-(2-bromoethyl)indane | 0.24 g | BrCCC=1C=C2CCCC2=CC1 | C11H13Br
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-{2-(indan-5-yl)ethyl}-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC=1C=C2CCCC2=CC1)C1=CC=CC=C1 | C29H34N2O
